US09340564B2
Step 1 Preparation of 1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanone
To a stirred solution of 2,5-Dibromo-pyridine (4 g, 6.87 mmol) in dry tetrahydrofuran (30 mL) and dry toluene (40 mL) is added drop wise n-Butyl litihum (1.62 g, 25.31 mmol) at −78° C. After stirring for 15-20 minutes, added trifluoro-acetic acid ethyl ester (3.56 g, 25.31 mmol) at −78° C. then stirred at −78° C. for another 30 minutes. The reaction mixture is diluted with saturated ammonium chloride solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by column chromatography eluting in 20% ethyl acetate in hexane to afford the title compound (1.2 g). 1HNMR (400 MHz, DMSO-d6) δ: 7.72 (d, J=8.32 Hz, 1H), 7.85-7.88 (dd, J1=8.32 Hz, J2=2.44 Hz 1H), 8.52 (d, J=2.36 Hz, 1H). LC-MS (m/z): [M+H]=255.8.

reactant | 2,5-Dibromo-pyridine | 6.87 mmol, 4 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | trifluoro-acetic acid ethyl ester | 25.31 mmol, 3.56 g | C(C)OC(C(F)(F)F)=O | C4H5F3O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanone | 1.2 g | BrC=1C=CC(=NC1)C(C(F)(F)F)=O | C7H3BrF3NO
